US05017724
0.16 Gram of 60% sodium hydride was added to a dimethylformamide solution containing 0.42 g of 5,7-dimethyl-8-hydroxy-9-methylamino-1,2,3,4,4a,9a-hexahydrofluorene in 5 ml of dimethylformamide, followed by stirring at room temperature for 30 minutes. Then, to the mixture was added 0.13 ml of methyl iodide, followed by stirring at the same temperature for 30 minutes. Water was added to the reaction mixture and extraction was carried out with chloroform. The chloroform layer was dried with magnesium sulfate and then the solvent was removed by concentration. The residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:4), then was dissolved in ethanol and converted to a hydrochloride with saturated hydrochloric acid gas-ethanol solution, which was recrystallized from ethanol to obtain 0.1 g of 5,7-dimethyl-8-methoxy-9-methylamino-1,2,3,4,4a,9a-hexahydrofluorene hydrochloride.

reactant | sodium hydride | [H-].[Na+]
reactant | 5,7-dimethyl-8-hydroxy-9-methylamino-1,2,3,4,4a,9a-hexahydrofluorene | 0.42 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)O)NC | C16H23NO
reactant | methyl iodide | 0.13 ml | CI | CH3I
reactant | Water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,7-dimethyl-8-methoxy-9-methylamino-1,2,3,4,4a,9a-hexahydrofluorene hydrochloride | 0.1 g | Cl.CC1=C2C3CCCCC3C(C2=C(C(=C1)C)OC)NC | InChI=1S/C17H25NO.ClH/c1-10-9-11(2)17(19-4)15-14(10)12-7-5-6-8-13(12)16(15)18-3;/h9,12-13,16,18H,5-8H2,1-4H3;1H
